US07700625B2
A mixture of 2-(2,4-dimethoxybenzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid methyl ester (4.65 g; 14.2 mmol) and lithium hydroxide monohydrate (660 mg; 1.1 equiv.) in 4:1:1 THF-MeOH-H2O (60 ml) was stirred at room temperature overnight. A further 170 mg of base were added and stirring continued for 7 hours. The reaction was evaporated then re-evaporated with MeOH/toluene (×2). A mixture of the crude 2-(2,4-dimethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid lithium salt (1.5 g; 4.7 mmol), morpholine (820 μl; 2 equiv.), EDAC (1.1 g; 1.2 equiv.) and HOBt (760 mg; 1.2 equiv.) in DMF (25 ml) was stirred at room temperature overnight then evaporated in vacuo. The residue was partitioned between EtOAc and saturated NaHCO3, the EtOAc layer was separated, washed with brine, dried (MgSO4) and evaporated. Purification by flash column chromatography (2% then 5% MeOH/DCM as eluant) gave 1.1 g of [2-(2,4-dimethoxybenzyl)-2,3-dihydro-1H-isoindol-5-yl]-morpholin-4-yl-methanone as a red/brown gum. 1H NMR (DMSO-d6) 7.30-7.18 (4H, m), 6.56 (1H, d), 6.52 (1H, dd), 3.85 (4H, s), 3.78 (5H, m), 3.73 (3H, s).

reactant | 2-(2,4-dimethoxybenzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid methyl ester | 14.2 mmol, 4.65 g | COC(=O)C=1C=C2CN(CC2=CC1)CC1=C(C=C(C=C1)OC)OC | C19H21NO4
reactant | lithium hydroxide monohydrate | 660 mg, 1.1 equiv. | O.[OH-].[Li+]
reactant | 2-(2,4-dimethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid lithium salt | 4.7 mmol, 1.5 g | [Li+].COC1=C(CN2CC3=CC=C(C=C3C2)C(=O)[O-])C=CC(=C1)OC
reactant | morpholine | 820 μl, 2 equiv. | N1CCOCC1 | C4H9NO
reactant | EDAC | 1.1 g, 1.2 equiv. | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 760 mg, 1.2 equiv. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | THF MeOH-H2O | 60 ml | C1CCOC1.CO.O
product | [2-(2,4-dimethoxybenzyl)-2,3-dihydro-1H-isoindol-5-yl]-morpholin-4-yl-methanone | 1.1 g | COC1=C(CN2CC3=CC=C(C=C3C2)C(=O)N2CCOCC2)C=CC(=C1)OC | C22H26N2O4
